US04436726
The reaction of hexanal (720 mg) and tert-butyl bromoacetate (2.265 g) was carried out under the presence of zinc (850 mg) according to similar manner to that of Preparation 1-(1) to afford an oil of tert-butyl 3-hydroxyoctanoate (1.2 g).

reactant | hexanal | 720 mg | C(CCCCC)=O | C6H12O
reactant | tert-butyl bromoacetate | 2.265 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
catalyst | zinc | 850 mg | [Zn] | Zn
product | tert-butyl 3-hydroxyoctanoate | 1.2 g | OC(CC(=O)OC(C)(C)C)CCCCC | C12H24O3
